US07812040B2
2,4-Dichloro-3-(pyrrolidin-1-ylmethyl)phenol.
A solution of intermediate 22, 2,6-Dichloro-3-hydroxybenzaldehyde (5.00 g, 26.18 mmol) in 5 mL of dichloromethane was added to a mixture of pyrrolidine (2.75 mL, 32.72 mmol) and sodium triacetoxyborohydride (6.94 g, 32.72 mmol) in dichloromethane (45 mL) under stirring. The reaction mixture was stirred for 16 h at room temperature. Water (20 mL) and saturated K2CO3 (5 mL) were added, and the layers were separated. The water layer was subjected to extraction with CHCl3 (2×50 mL). The combined organic layers were washed with water (30 mL), brine, dried with Na2SO4, and evaporated. The residue was purified by chromatography (silica gel, 63/100 μm, 50 g, CHCl3/MeOH 100:0→80:20). Fractions containing the target compound were evaporated. The residue was crystallized from ether to furnish the title compound (4.7 g, 73%) as white crystals. LCMS data: 246 and 248 (M+H)+ (calculated for C11H13Cl2NO 246.14). 1H NMR data (DMSO-d6): 10.47 (br.s, 1H, OH); 7.19 (d, 1H, J=9 Hz, Ar—H); 6.89 (d, 1H, J=9 Hz, Ar—H); 3.78 (s, 2H, CH2Ar); 2.50-2.56 (m, 4H, CH2NCH2); 1.60-1.68 (m, 4H, CH2CH2).

reactant | 2,6-Dichloro-3-hydroxybenzaldehyde | 26.18 mmol, 5.00 g | ClC1=C(C=O)C(=CC=C1O)Cl | C7H4Cl2O2
reactant | pyrrolidine | 32.72 mmol, 2.75 mL | N1CCCC1 | C4H9N
reactant | sodium triacetoxyborohydride | 32.72 mmol, 6.94 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | K2CO3 | 5 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 45 mL | ClCCl | CH2Cl2
solvent | Water | 20 mL | O | H2O
product | 2,4-Dichloro-3-(pyrrolidin-1-ylmethyl)phenol | 4.7 g, 73% | ClC1=C(C=CC(=C1CN1CCCC1)Cl)O | C11H13Cl2NO
